US06323369B1
2-[(methylphenethylamino)-methyl]-6-phenyl-cycloheptanone hydrochloride
A mixture of 2.77g of 3-phenylcycloheptanone, 2.52 g of methylphenethylamine hydrochloride and 1.23 ml of an aqueous formaldehyde solution (36%) were heated on a water bath for 2 hours under vigorous stirring and with the introduction of nitrogen. The mixture was then evaporated under vacuum, the residue was extracted 3 times with diethylether/n-hexane=1/1 and dried under vacuum. 5.4 g of the crude title compound were then obtained.

reactant | 3-phenylcycloheptanone | 2.77g | C1(=CC=CC=C1)C1CC(CCCC1)=O | C13H16O
reactant | methylphenethylamine hydrochloride | 2.52 g | Cl.CNCCC1=CC=CC=C1
reactant | formaldehyde | 1.23 ml | C=O | CH2O
product | 2-[(methylphenethylamino)-methyl]-6-phenyl-cycloheptanone hydrochloride | 5.4 g | Cl.CN(CCC1=CC=CC=C1)CC1C(CC(CCC1)C1=CC=CC=C1)=O | InChI=1S/C23H29NO.ClH/c1-24(16-15-19-9-4-2-5-10-19)18-22-14-8-13-21(17-23(22)25)20-11-6-3-7-12-20;/h2-7,9-12,21-22H,8,13-18H2,1H3;1H
